2153-06-14 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Started empiric broad coverage with vanc, zosyn, azithro, and bactrim
   - Received 4L IVF boluses for SBP 70-80 with temporary improvement to
   90-100. Started on stress steroids and vasopressin gtt.
   - Lactate 1.5 -> 1.7 -> 1.4
   - No new complaints this AM; symptoms unchanged.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2153-6-13**] 10:41 PM
   Azithromycin - [**2153-6-13**] 11:33 PM
   Vancomycin - [**2153-6-14**] 01:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-13**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-14**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 56 (56 - 77) bpm
   BP: 96/49(60) {67/41(47) - 183/110(128)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  6,390 mL
                                                                  1,286 mL
   PO:
             TF:
   IVF:
                                                                  3,390 mL
                                                                  1,286 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                    460 mL
   Urine:
                                                                    150 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,240 mL
                                                                    826 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   VS: T 99, HR 77, BP 70/40, RR 19, O2sat 94% on 6L NC
   Gen: Elderly man who appears tachypneic with uncomfortable breathing
   but NAD
   HEENT: MMM, +thrush
   NECK: Supple, No LAD, JVP ~8cm
   CV: Heart sounds quiet but regular with nl S1, S2. +2/6 systolic
   ejection murmur.
   LUNGS: CTA, diffuse rales b/l to mid-lung fields with decreased air
   movement at bases.
   ABD: Soft, NL BS, nontender, nondistended. No HSM.
   EXT: 1+ edema on posterior aspect of lower extremities. 2+ DP pulses
   BL. Splints over subluxed third fingers b/l.
   SKIN: Healed scabs over elbows and feet b/l.
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   108 K/uL
   8.7 g/dL
   200 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.1 mEq/L
   23 mg/dL
   117 mEq/L
   142 mEq/L
   26.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2153-6-14**]  04:11 AM
   WBC
   5.4
   Hct
   26.1
   Plt
   108
   Cr
   0.6
   Glucose
   200
   Other labs: Lactic Acid:1.4 mmol/L, LDH:388 IU/L, Ca++:6.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.0 mg/dL. Urine legionella Ag negative. [**Year (4 digits) 5840**]
   DFA pending. Blood and urine cx pending.
   Assessment and Plan
   83yo male with multiple medical problems including [**Name2 (NI) 5831**]
   multiforme was admitted with fever and CXR findings suggestive of
   pneumonia.
   .
   1. Multilobar opacities
   Patient's CXR is concerning for multilobar pneumonia with overlying
   increased pulmonary edema/pleural effusion [**3-12**] aggressive fluid
   resusucitation overnight. Etiology of his symptoms is broad given his
   history of immunosuppression. He is certainly at risk for bacterial,
   viral, or fungal pathogens. Legionella neg.
   - F/u final read of CXR
   - Continue broad coverage with vanco and zosyn for HAP, azithromycin
   for atypicals, and bactrim for PCP pending further cx data
   - F/u induced sputum gram stain and culture including for PCP,
   [**Name10 (NameIs) **] DFA, rapid viral screen, beta glucan and galactomannan
   - Add CMV viral load, could consider checking for mycoplasma
   - O2 supplementation to maintain sats >95%
   - Would hold off diuresis for now given hypotension and allow pt to
   autodiurese. [**Month (only) 11**] require intubation if pt unable to tolerate lying flat
   if need to obtain central access.
   .
   2. Sepsis
   Patient has evidence of sepsis given evidence of infection, fevers,
   hypotension, and tachycardia. His lactate initially mildly elevated in
   ED although normalized s/p IV fluids. Regarding source of infection,
   most likely source includes pulmonary given evidence of pneumonia on
   exam and imaging. No additional symptoms to suggest urinary or
   gastrointestinal infection. Given his immunosuppression while on
   current prolonged steroid taper, his differential diagnosis is broad.
   - Broad spectrum antibiotics and infectious work-up as above, follow up
   pending micro
   - Management with fluids/pressors as below
   - Continue stress dose steroids
   - Trend lactate
   .
   3. HTN: Hypotensive on arrival to floor. [**Month (only) 11**] have component of
   hypovolemia given decreased fluid intake and high BUN:Cr ratio but
   given multilobar pneumonia, concerning for evolving sepsis.  Pt
   aggressively fluid resuscitated overnight but now limited by fluid
   overload. Maintaining MAPs at goal of 60 on vasopressin for now. As pt
   now off home antihypertensives and on stress dose steroids, may see
   improvement today in BP.
   - Continue to hold outpt Atenolol 75mg daily and Quinapril 20mg daily
   for now
   - Observe BP off vasopressin
   - If unable to maintain MAP >60, may need central access for pressor
   administration given limit on aggressive fluids in setting of fluid
   overload causing hypoxia
   .
   4. Thrush: Likely [**3-12**] immunosuppression on dexamethasone taper
   - Continue Nystatin
   - Lidocaine and cepacol prn for sore throat
   .
   5. GBM: Currently on prolonged dexamethasone taper [**3-12**] radiation with
   resultant edema in brainstem.
   - Continue current taper; on [**6-11**] decreased to 2mg once a day. On [**6-18**]
   decrease to 1mg once a day.
   - Continue Nystatin
   - Continue PPI given steroids, intracranial lesion
   .
   6. Hyperlipidemia: Stable, continue Atorvastatin.
   .
   7. CAD: As above, holding BP meds but continuing statin.
   .
   8. Osteoarthritis:
   - Resume chondroitin sulfate on discharge as not available inpatient
   - Ibuprofen prn for pain
   .
   9. Abdominal discomfort: Consistent with constipation per pt. Has not
   had BM in several days.
   - Colace, senna and bisacodyl prn
   ICU Care
   Nutrition: Regular diet, MVI, replete electrolytes prn
   Glycemic Control:
   Lines:
   18 Gauge x 2; will reassess need for central access
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement in BP

2153-06-14 08:36:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Systemic Steroids increased
   -Vasopressin started for hypotension with some improvement in BP to
   MAP=60
   -Lactate did have persistent elevation at 1.7
   -Broad spectrum ABX started
   -Shovel mask required for maintenance of adequate saturations at
   FIO2=0.5
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2153-6-13**] 10:41 PM
   Azithromycin - [**2153-6-13**] 11:33 PM
   Vancomycin - [**2153-6-14**] 01:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-13**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.2
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-6-14**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 56 (56 - 77) bpm
   BP: 96/49(60) {67/41(47) - 183/110(128)} mmHg
   RR: 29 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  6,390 mL
                                                                  1,299 mL
   PO:
             TF:
   IVF:
                                                                  3,390 mL
                                                                  1,299 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                    460 mL
   Urine:
                                                                    150 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,240 mL
                                                                    839 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
JVP at angle of mandible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Mid lung zones, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   108 K/uL
   200 mg/dL
   0.6 mg/dL
   19 mEq/L
   3.1 mEq/L
   23 mg/dL
   117 mEq/L
   142 mEq/L
   26.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2153-6-14**]  04:11 AM
   WBC
   5.4
   Hct
   26.1
   Plt
   108
   Cr
   0.6
   Glucose
   200
   Other labs: Lactic Acid:1.4 mmol/L, LDH:388 IU/L, Ca++:6.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: AG-normal
   Imaging: CXR-patient with increased bilateral infiltrates and evolved
   small bilateral effusions.
   Microbiology: Cultures--All pending
   Legionella-negative
   Viral-Pending
   Assessment and Plan
   83 yo male with h/o GBM, CAD, AS, HTN admitted with multiple day
   sequence of fever, cough and with increased chills and fatigue patient
   had hypotension noted by VNA and to ED for evaluation.  There patient
   had findings consistent with pneumonia and possible pulmonary edema and
   in the setting of recent immunosupression patient treated with
   Vanco/Zosyn/Azithromycing and Bactrim and admitted to the ICU with
   sepsis secondary to pulmonary source.  This morning he has notable
   findings of persistent tachycardia and increasing O2 requirement.
   1)Sepsis-
   Vasopressin in place
   Given significant respiratory compromise would favor pressors over
   further fluid
   Will need central access for further pressors and, although it is clear
   patient has significant hydrostatic overload
   Outpatient anti-hypertensives held
   -Blood cultures sent and broad spectrum ABX in place
   2)Pneumonia-There remains a broad differential for infectious source
   and patient with significant tachypnea and hypoxemia
   Vanco/Bactrim/Azithro/Zosyn to continue
   Cultures all pending at this time
   Acute challenge is the significant pulmonary edema
   NIPPV may be required and if intubated bronch with BAL certainly would
   be reasonable
   Legionella negative to date
   3)Pulmonary Edema-
   -Pressors rather than fluid
   -No capacity to pursue diuresis
   -[**Month (only) 11**] benefit from NIPPV if worsening seen
   ICU Care
   Nutrition: po diet when improved resp status seen
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-6-13**] 07:47 PM
   Will need central access if further hypotension and pressor
   requirements seen
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2153-06-15 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fever and respiratory distress
   24 Hour Events:
   -A-line with better pressures than cuff
   -started treatment dose of Bactim and starting streroids as Pa O2 < 70
   -gave fluids in am... diuresed in pm (10 mg IV Lasix)
   -stopped vasopressin
   -micro data- negative to date
   -PICC placed
   -some wheezing started Neb Tx
   -ABG with resp alk (?hypoxic drive)
   -CXR: persistence of diffuse interstitial opacity with stable cardiac
   silhouette suggestive of inflammatory process, or less likely
   asymmetric pulmonary edema.
   -micro data:
     -urine and blood cultures: negative
     -PCP (induced sputum): pending
     -[** **] and legionella: negative
   -overnight events: no fevers, chills, no cough; patient denies pain
   this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-6-14**] 08:15 PM
   Azithromycin - [**2153-6-14**] 11:53 PM
   Bactrim (SMX/TMP) - [**2153-6-15**] 02:22 AM
   Piperacillin - [**2153-6-15**] 06:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-15**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 77 (59 - 86) bpm
   BP: 90/47(58) {66/39(48) - 99/66(69)} mmHg
   RR: 31 (18 - 41) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,930 mL
                                                                  1,683 mL
   PO:
             TF:
   IVF:
                                                                  2,930 mL
                                                                  1,683 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    320 mL
   Urine:
                                                                  2,615 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    315 mL
                                                                  1,363 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.46/24/85/16/-4
   PaO2 / FiO2: 106
   Physical Examination
   Gen: elderly gentleman, appears anxious, breathing fast but not
   distressed; able to speak in complete sentences
   HEENT: MMM, +thrush
   NECK: supple, No LAD, JVP ~8cm
   CV: heart sounds quiet but regular with nl S1, S2. +2/6 systolic
   ejection murmur.
   LUNGS: clear to auscultation in anterior fields
   ABD: soft and non-tender with normal bowel sounds
   EXT: 2+ edema to mid legs; feet warm and well-perfused bilaterally with
   resolving petechiae around ankles
   NEURO: A&Ox3. Appropriate.
   Labs / Radiology
   110 K/uL
   8.4 g/dL
   260 mg/dL
   0.7 mg/dL
   16 mEq/L
   4.0 mEq/L
   20 mg/dL
   112 mEq/L
   138 mEq/L
   23.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2153-6-14**]  04:11 AM
                             [**2153-6-14**]  02:16 PM
                             [**2153-6-14**]  02:27 PM
                             [**2153-6-14**]  02:47 PM
                             [**2153-6-14**]  03:35 PM
                             [**2153-6-14**]  09:47 PM
                             [**2153-6-15**]  04:38 AM
                             [**2153-6-15**]  05:00 AM
   WBC
   5.4
   7.2
   5.8
   Hct
   26.1
   28.4
   23.8
   Plt
   108
   105
   110
   Cr
   0.6
   0.6
   0.7
   TCO2
   20
   20
   20
   20
   18
   Glucose
   200
   151
   260
   Other labs: Lactic Acid:3.7 mmol/L, Albumin:1.8 g/dL, LDH:388 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   83 yo man with multiple medical problems including [**Name2 (NI) 5831**]
   multiforme was admitted with fever and CXR findings suggestive of
   pneumonia.
   1. Respiratory distress, infiltrates on CXR
   Patient's CXR is concerning for multilobar pneumonia with overlying
   increased pulmonary edema/pleural effusion [**3-12**] aggressive fluid
   resusucitation overnight. Etiology of his symptoms is broad given his
   history of immunosuppression. He is certainly at risk for bacterial,
   [**Month/Day (2) 5655**], or fungal pathogens. Legionella negative. Also consider in ddx
   cardiogenic pulmonary edema, whether due to valvular disease,
   ?myocarditis (recent URI symptoms), or other cardiac cause.
   -continue broad coverage with vanco and zosyn for HAP, azithromycin for
   atypicals, and bactrim for PCP
   [**Name Initial (PRE) **]/u induced sputum gram stain and culture including for PCP, [**Name10 (NameIs) **]
   DFA, rapid [**Name10 (NameIs) 5655**] screen, beta glucan and galactomannan
   -f/u CMV vL
   -oxygen supplementation to maintain sats >95%
   -consider intubation and bronchoscopy today; BAL for PCP, [**Name10 (NameIs) 5655**]
   studies, gram stain and culture
   2. Hypotension
   Patient has evidence of sepsis given evidence of infection, fevers,
   hypotension, and tachycardia. His lactate initially mildly elevated in
   ED. Regarding source of infection, most likely source is pulmonary
   given evidence of pneumonia on exam and imaging. No additional symptoms
   to suggest urinary or gastrointestinal infection. Given his
   immunosuppression while on current prolonged steroid taper, the
   differential diagnosis is broad.
   -broad spectrum antibiotics and infectious work-up as above, follow up
   pending micro
   -continue stress dose steroids
   -continue to trend lactate
   -cardiac enzymes, echo today
   3. Blood pressure
   Hypotensive on arrival to floor. [**Month (only) 11**] have component of hypovolemia
   given decreased fluid intake and high BUN:Cr ratio but given multilobar
   pneumonia, concerning for evolving sepsis.  Patient was aggressively
   fluid resuscitated overnight but now limited by fluid overload.
   Maintaining MAPs at goal of 60.
   -holding outpatient atenolol 75mg daily and quinapril 20mg daily for
   now
   4. Thrush
   Likely [**3-12**] immunosuppression on dexamethasone taper.
   -continue Nystatin
   -lidocaine and cepacol prn for sore throat
   5. GBM
   Currently on prolonged dexamethasone taper [**3-12**] radiation with resultant
   edema in brainstem.
   -continue dexamethasone 6mg q12h
   -continue Nystatin
   -continue PPI given steroids, intracranial lesion
   6. Hyperlipidemia
   Stable, continue Atorvastatin.
   7. CAD
   As above, holding BP meds but continuing statin.
   8. Osteoarthritis
   -resume chondroitin sulfate on discharge as not available inpatient
   -ibuprofen prn for pain
   9. Abdominal discomfort: Consistent with constipation per pt. Has not
   had BM in several days.
   -colace, senna and bisacodyl prn
   ICU Care
   Nutrition: Regular diet, MVI, replete electrolytes prn
   Glycemic Control:
   Lines:
   18 Gauge x 2; will reassess need for central access
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending improvement in BP

2153-06-15 11:14:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2153-6-14**] 12:28 PM
 ARTERIAL LINE - START [**2153-6-14**] 01:16 PM
   -Progression of pulmonary infiltrates
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-14**] 11:53 PM
   Bactrim (SMX/TMP) - [**2153-6-15**] 02:22 AM
   Piperacillin - [**2153-6-15**] 06:00 AM
   Vancomycin - [**2153-6-15**] 08:00 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-15**] 09:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2153-6-15**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.3
   HR: 107 (63 - 107) bpm
   BP: 90/47(58) {90/46(57) - 96/52(62)} mmHg
   RR: 32 (25 - 41) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,930 mL
                                                                  1,936 mL
   PO:
             TF:
   IVF:
                                                                  2,930 mL
                                                                  1,936 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    520 mL
   Urine:
                                                                  2,615 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    315 mL
                                                                  1,416 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: 7.46/24/85.[**Numeric Identifier 433**]/16/-4
   PaO2 / FiO2: 89
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   110 K/uL
   260 mg/dL
   0.7 mg/dL
   16 mEq/L
   4.0 mEq/L
   20 mg/dL
   112 mEq/L
   138 mEq/L
   23.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2153-6-14**]  04:11 AM
                             [**2153-6-14**]  02:16 PM
                             [**2153-6-14**]  02:27 PM
                             [**2153-6-14**]  02:47 PM
                             [**2153-6-14**]  03:35 PM
                             [**2153-6-14**]  09:47 PM
                             [**2153-6-15**]  04:38 AM
                             [**2153-6-15**]  05:00 AM
   WBC
   5.4
   7.2
   5.8
   Hct
   26.1
   28.4
   23.8
   Plt
   108
   105
   110
   Cr
   0.6
   0.6
   0.7
   TCO2
   20
   20
   20
   20
   18
   Glucose
   200
   151
   260
   Other labs: Lactic Acid:3.7 mmol/L, Albumin:1.8 g/dL, LDH:388 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Fluid analysis / Other labs: 10
   Imaging: CXR--Diffuse interstitial opacities--mild improvement from
   yesterday in diffuse right sided infiltrates.
   Assessment and Plan
   83 yo male admitted wtih fever and pneumonia suggested who has evolved
   significant hypoxemia, worsening of pulmonary infiltrate and has had
   progression of hypoxemia across time wtih respiratory alkalosis.  This
   may well be ongoing infection but certainly given the nature of
   infiltrates he has concern raised for possible hydrostatic pulmonary
   edema contribution and possible AS.  This potential issue of severe AS
   contributing would make move to intubation one that would have to be
   conducted carefully and precisely.
   1)Respiratory Failure-Hypoxemic--Differential diagnosis as above
   -Intubation needed to allow ongoing evaluation and treatment going
   forward as patient with severe respiratory compromise and distress.
   -Bronch with BAL for possible PCP
   [**Name9 (PRE) 5855**] continue with empiric Rx-Vanco/bactrim-400mg IV q 8 hours/Zosyn
   -Dex 6mg q 12 ongoing for multiple reasons and will consider some
   benefit in terms of possible PCP
   [**Name9 (PRE) 5855**] pursue ECHO results as will have to consider AS as potentially
   severe and will need to manage volume status and pressor requirements
   around intubation with care
   -Plan and need for intubation described in full with patient.
   2)HYPOTENSION-Possible sepsis or cardiogenic-
   -Will continue with broad spectrum ABX
   -Will need CVL to consider possible cardiogenic source in failure
   -Continue with Vasopressin for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-6-13**] 07:47 PM
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-14**] 01:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Plan discussed in full with patient in
   regards to need for intubation and plan for treatment going forward.
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes

2153-06-16 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2153-6-15**] 01:45 PM
 ARTERIAL LINE - STOP [**2153-6-15**] 02:02 PM
 ARTERIAL LINE - START [**2153-6-15**] 08:17 PM
   Overnight events - intubation, started on Levophed, same Abx
   No secretions
   CMV PCR positive, legionella neg
   Echo preserved LV function, mod PAS hypertension, no AS
   LOS positive ~ 10 L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-16**] 12:00 AM
   Piperacillin - [**2153-6-16**] 05:48 AM
   Vancomycin - [**2153-6-16**] 07:50 AM
   Bactrim (SMX/TMP) - [**2153-6-16**] 09:58 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-16**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-16**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 110 (68 - 125) bpm
   BP: 138/78(92) {105/58(69) - 143/83(101)} mmHg
   RR: 20 (12 - 37) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,890 mL
                                                                  2,354 mL
   PO:
             TF:
   IVF:
                                                                  3,890 mL
                                                                  2,184 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    960 mL
   Urine:
                                                                  1,050 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,840 mL
                                                                  1,394 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: 7.33/36/81.[**Numeric Identifier **]/17/-6
   Ve: 10.4 L/min
   PaO2 / FiO2: 162
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, hypoactive BS
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   119 K/uL
   270 mg/dL
   0.9 mg/dL
   17 mEq/L
   3.6 mEq/L
   20 mg/dL
   107 mEq/L
   134 mEq/L
   24.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2153-6-14**]  02:27 PM
                             [**2153-6-14**]  02:47 PM
                             [**2153-6-14**]  03:35 PM
                             [**2153-6-14**]  09:47 PM
                             [**2153-6-15**]  04:38 AM
                             [**2153-6-15**]  05:00 AM
                             [**2153-6-15**]  06:03 PM
                             [**2153-6-15**]  10:23 PM
                             [**2153-6-16**]  03:40 AM
                             [**2153-6-16**]  09:33 AM
   WBC
   7.2
   5.8
   7.9
   Hct
   28.4
   23.8
   24.3
   Plt
   105
   110
   119
   Cr
   0.6
   0.7
   0.9
   TropT
   0.04
   TCO2
   20
   20
   20
   18
   21
   19
   20
   Glucose
   151
   260
   270
   Other labs: CK / CKMB / Troponin-T:55/6/0.04, Lactic Acid:2.7 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.6
   mg/dL
   Assessment and Plan
 H/O CANCER (MALIGNANT NEOPLASM), BRAIN
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   83 yo male admitted wtih fever and pneumonia suggested who has evolved
   significant hypoxemia, worsening of pulmonary infiltrate and has had
   progression of hypoxemia across time wtih respiratory alkalosis.  This
   may well be ongoing infection but certainly given the nature of
   infiltrates he has concern raised for possible hydrostatic pulmonary
   edema
   1) Acute respiratory Failure - Hypoxemic--Differential diagnosis broad
   given immunocompromised state
   -will do miniBAL and if not possible, will proceed with bronch with BAL
   -Will continue with empiric Rx-Vanco/bactrim-400mg IV q 8
   hours/Zosyn/Azithro
   -Dex 6mg q 12 ongoing for multiple reasons and will consider some
   benefit in terms of possible PCP
   2)Shock
 likely septic shock exacerbated by sedation and positive
   pressure ventilation
   -Will continue with broad spectrum ABX, holding antihypertensives
   -Has PICC but will consider CVL if more access required.
   -Continue with Levophed for now
   3) Thrush - nystatin
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2153-06-17 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Continued on current abx
   -CMV VL 1570: No need to tx per ID; unlikely etiology as not too
   immunosuppressed
   -Noninvasive BAL done for micro. Gram stain neg for PML/microorg
   -Tube feeds started with Reglan added for high residuals. Cont bowel
   meds.
   -Petechiae on lateral aspects of abdomen. Hct stable. Coags nl. Anemia
   w/u not c/w Iron/B12/folate deficiency or hemolysis. Retic inapprop
   low, ?[**3-12**] chemo + chronic disease.
   -Acutely hypotensive to 80s and tachycardic to 120s at 8:30pm. EKG with
   sinus tachy. Given 500cc bolus with improvement in BP although still
   sinus tachy. PE unlikely as sats stable and on DVT ppx. Bleed unlikely
   [**3-12**] stable Hct. Sedated adequately. ?Levophed rebound.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2153-6-16**] 05:48 AM
   [**Year (4 digits) 5901**] (SMX/TMP) - [**2153-6-16**] 06:00 PM
   Vancomycin - [**2153-6-16**] 08:03 PM
   Azithromycin - [**2153-6-17**] 02:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-6-17**] 05:43 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.16 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-17**] 12:22 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-17**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 92 (88 - 122) bpm
   BP: 138/78(92) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,728 mL
                                                                    753 mL
   PO:
             TF:
                                                                     27 mL
   IVF:
                                                                  4,321 mL
                                                                    723 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                  1,830 mL
   Urine:
                                                                  2,415 mL
                                                                  1,110 mL
   NG:
                                                                    440 mL
                                                                    720 mL
   Stool:
   Drains:
   Balance:
                                                                  1,873 mL
                                                                 -1,077 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.32/40/85.[**Numeric Identifier 433**]/19/-5
   Ve: 10.2 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Gen: elderly gentleman, intubated, sedated, not arousable to voice
   HEENT: MMM, +thrush
   CV: heart sounds quiet but regular with nl S1, S2. +2/6 systolic
   ejection murmur.
   LUNGS: clear to auscultation in anterior fields
   ABD: soft, hypoactive bowel sounds
   EXT: symmetric 2+ edema to mid legs; feet warm and well-perfused
   bilaterally with resolving petechiae around ankles
   Labs / Radiology
   118 K/uL
   8.9 g/dL
   265 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   17 mg/dL
   103 mEq/L
   131 mEq/L
   25.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2153-6-15**]  04:38 AM
                             [**2153-6-15**]  05:00 AM
                             [**2153-6-15**]  06:03 PM
                             [**2153-6-15**]  10:23 PM
                             [**2153-6-16**]  03:40 AM
                             [**2153-6-16**]  09:33 AM
                             [**2153-6-16**]  02:37 PM
                             [**2153-6-16**]  09:00 PM
                             [**2153-6-17**]  05:25 AM
                             [**2153-6-17**]  05:39 AM
   WBC
   5.8
   7.9
   9.3
   9.0
   Hct
   23.8
   24.3
   25.2
   25.5
   Plt
   110
   119
   111
   118
   Cr
   0.7
   0.9
   1.0
   0.9
   TropT
   0.04
   TCO2
   18
   21
   19
   20
   22
   Glucose
   [**Telephone/Fax (3) 5896**]65
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, Alk Phos / T Bili:/0.2, Lactic Acid:2.6 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:7.0 mg/dL, Mg++:2.2 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   83 yo man with multiple medical problems including [**Name2 (NI) 5831**]
   multiforme was admitted with fever and CXR findings suggestive of
   pneumonia.
   1. Respiratory failure:
   Infiltrates concerning for pneumonia and given immuosuppression, at
   risk for bacterial, viral, or fungal pathogens. Legionella negative.
   Evolving CXR concerning for hydrostatic pulmonary edema which may be
   [**3-12**] aggressive fluid resuscitation in setting of hypotension.  Appears
   noncardiogenic given ROMI and nl ventricular function on TTE. Not able
   to tolerate AC due to dysynchrony; improved with pressure control but
   still pulling in large Vt. BAL without micro yet.
   -F/u BAL.
   -Continue ventilation
   -Continue broad coverage with vanco and zosyn for HAP, azithromycin for
   atypicals, and [**Month/Day (2) **] for PCP
   [**Month (only) 5887**] have benefit from stress dose steroids in setting of possible PCP
   [**Name9 (PRE) **] ID [**Name9 (PRE) 5899**], CMV unlikely to be etiology as not very
   immunosuppressed; would not treat at this time
   -Consider CT chest if continuing to worsen
   2. Hypotension
   Likely septic given evidence of infection with contribution from
   sedation and positive pressure ventilation. Initially may have had
   component of hypovolemia given decreased fluid intake and high BUN:Cr
   ratio but aggressively fluid repleted with improvement in lactate. Also
   may have had adrenal insufficiency given acute insult in setting of
   chronic steroids but started on stress dose steroids. Cardiogenic
   etiology less likely given absence of AS or ventricular dysfunction on
   TTE.  His lactate increased again today; maintain MAPs > 65 on
   pressors.
   -Broad spectrum antibiotics and infectious work-up as above
   -Continue stress dose steroids
   -Continue pressors for now, wean as tolerated
   -[**Month (only) 11**] be able to tolerate small fluid boluses if needed
   -Repeat lactate in PM
   -Continue to hold outpatient atenolol and quinapril
   3. Thrush
   Likely [**3-12**] immunosuppression on dexamethasone taper.
   -continue Nystatin
   -lidocaine and cepacol prn for sore throat when taking po
   4. GBM
   Currently on prolonged dexamethasone taper [**3-12**] radiation with resultant
   edema in brainstem.
   -continue dexamethasone 6mg q12h
   -continue PPI given steroids, intracranial lesion
   -continue Nystatin
   5. Hyperlipidemia
   Stable, continue Atorvastatin.
   6. CAD
   As above, holding BP meds but continuing statin.
   7. Osteoarthritis
   -resume chondroitin sulfate on discharge as not available inpatient
   -ibuprofen prn for pain
   9. Abdominal discomfort: Consistent with constipation per pt. Had BM
   yesterday but still quiet bowel sounds
   -colace, senna and bisacodyl prn
   ICU Care
   Nutrition: OG tube, TF being held [**3-12**] high residuals.
   Glycemic Control:
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending  BP and respiratory status
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Overnight events
 CMV VL 1570, felt by ID not necessary to treat.
   MiniBAL positive for PCP. [**Name10 (NameIs) 5901**] since [**6-14**]
   Exam as above. Remains on vent, sedated, symmetric LE edema.
   Labs reviewed. pO2 85 on current vent settings.
   83 yo male admitted wtih fever and pneumonia, likely all due to PCP,
   [**Name10 (NameIs) **] progressive hypoxemia and infiltrates requiring intubation [**6-15**].
   1) Acute respiratory Failure/PCP pneumonia
likely all due to PCP +/-
   CHF (10 L positive for LOS)
   -wean down PEEP
   - will continue with [**Month/Year (2) **]-400mg IV q 8 hours/Dex
   --can d/c Vanc and [**Last Name (LF) 5902**], [**First Name3 (LF) 116**] d/c Zosyn tomorrow if stable
   2)Shock
 likely septic shock exacerbated by sedation and positive
   pressure ventilation +/- adrenal insufficiency
   - holding antihypertensives, check cortisol +/- ACTH stim
   - may need stress dose steroids.
   -Has PICC but will consider CVL if more access required.
   3) Thrush
 nystatin
   Rest of issues per resident
s note. Patient is full code. Total time 40
   minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1512**] [**Last Name (NamePattern1) 1513**], MD
   on:[**2153-6-17**] 12:32 ------

2153-06-18 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Failed SBT secondary to oversedation
   -Decreased sedation.
   -Decreased PEEP to 8.
   -Random cortisol 2.6 --> changed to stress dose steroids
   -Low UOP overnight (? if diuresis to Bactrim) gave small fluid bolus.
   Overall UOP ok so held further bolus in am. will need to re-assess.
   -BAL grew PCP
   [**Name Initial (PRE) 429**]:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2153-6-16**] 05:48 AM
   Azithromycin - [**2153-6-17**] 02:03 AM
   Vancomycin - [**2153-6-17**] 08:24 AM
   Bactrim (SMX/TMP) - [**2153-6-18**] 02:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-6-18**] 05:56 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2153-6-17**] 09:46 PM
   Midazolam (Versed) - [**2153-6-17**] 09:46 PM
   Heparin Sodium (Prophylaxis) - [**2153-6-17**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-18**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 104 (102 - 124) bpm
   BP: 111/63(79) {90/53(67) - 121/66(86)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  3,133 mL
                                                                  1,933 mL
   PO:
             TF:
   IVF:
                                                                  3,043 mL
                                                                  1,933 mL
   Blood products:
   Total out:
                                                                  4,020 mL
                                                                    863 mL
   Urine:
                                                                  2,705 mL
                                                                    763 mL
   NG:
                                                                  1,315 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -887 mL
                                                                  1,070 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRES/AC
   Vt (Set): 490 (490 - 490) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   SpO2: 95%
   ABG: 7.40/31/120/17/-3
   Ve: 11.5 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   125 K/uL
   8.5 g/dL
   178 mg/dL
   0.9 mg/dL
   17 mEq/L
   3.9 mEq/L
   15 mg/dL
   103 mEq/L
   130 mEq/L
   25.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2153-6-16**]  03:40 AM
                             [**2153-6-16**]  09:33 AM
                             [**2153-6-16**]  02:37 PM
                             [**2153-6-16**]  09:00 PM
                             [**2153-6-17**]  05:25 AM
                             [**2153-6-17**]  05:39 AM
                             [**2153-6-17**]  06:20 PM
                             [**2153-6-17**]  11:45 PM
                             [**2153-6-18**]  04:13 AM
                             [**2153-6-18**]  04:57 AM
   WBC
   7.9
   9.3
   9.0
   10.6
   Hct
   24.3
   25.2
   25.5
   25.6
   Plt
   119
   111
   118
   125
   Cr
   0.9
   1.0
   0.9
   0.9
   TCO2
   20
   22
   20
   20
   20
   Glucose
   [**Telephone/Fax (3) 5907**]78
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, Alk Phos / T Bili:/0.2, Lactic Acid:3.0 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:1.7
   mg/dL
   Imaging: My read: not significantly changed since [**6-17**]
   [**Month/Year (2) 5908**]: RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
      [**Month/Year (2) 5910**] CULTURE (Preliminary):    NO [**Month/Year (2) 5910**] ISOLATED.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2153-6-16**]):
         PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies.
         if pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 5908**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2153-6-17**]):
         POSITIVE FOR PNEUMOCYSTIS JIROVECII (CARINII).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary):
   Assessment and Plan
   83 yo man with multiple medical problems including [**Name2 (NI) 5831**]
   multiforme was admitted with fever and CXR findings suggestive of
   pneumonia.
   1. Respiratory failure:
   Infiltrates concerning for pneumonia and given immuosuppression, at
   risk for bacterial, viral, or fungal pathogens. BAL grew PCP,
   [**Name10 (NameIs) **] negative. Evolving CXR concerning for hydrostatic pulmonary
   edema which may be [**3-12**] aggressive fluid resuscitation in setting of
   hypotension.  Appears noncardiogenic given ROMI and nl ventricular
   function on TTE. Not able to tolerate AC due to dysynchrony; improved
   with pressure control but still pulling in large Vt. BAL without micro
   yet.
   -F/u final BAL.
   -Continue ventilation
   -Continue broad coverage with vanco and zosyn for HAP, azithromycin for
   atypicals, and bactrim for PCP
   [**Name9 (PRE) 5911**] stress dose steroids for PCP
   [**Name9 (PRE) **] ID [**Name9 (PRE) 5899**], CMV unlikely to be etiology as not very
   immunosuppressed; would not treat at this time
   -Consider CT chest if continuing to worsen
   2. Hypotension
   Likely septic given evidence of infection with contribution from
   sedation and positive pressure ventilation. Initially may have had
   component of hypovolemia given decreased fluid intake and high BUN:Cr
   ratio but aggressively fluid repleted with improvement in lactate. Also
   may have had adrenal insufficiency given acute insult in setting of
   chronic steroids but started on stress dose steroids. Cardiogenic
   etiology less likely given absence of AS or ventricular dysfunction on
   TTE.  Lactate increased TO 3 from 2.6; maintain MAPs > 65 on pressors.
   -Broad spectrum antibiotics and infectious work-up as above
   -Continue stress dose steroids
   -Continue pressors for now, wean as tolerated
   -[**Month (only) 11**] be able to tolerate small fluid boluses if needed
   -Repeat lactate in PM
   -Continue to hold outpatient atenolol and quinapril
   3. Thrush
   Likely [**3-12**] immunosuppression on dexamethasone taper.
   -continue Nystatin
   -lidocaine and cepacol prn for sore throat when taking po
   4. GBM
   Previously on prolonged dexamethasone taper [**3-12**] radiation with
   resultant edema in brainstem.
   -now on stress dose steroids
   -continue PPI given steroids, intracranial lesion
   -continue Nystatin
   5. Hyperlipidemia
   Stable, continue Atorvastatin.
   6. CAD
   As above, holding BP meds but continuing statin.
   7. Osteoarthritis
   -resume chondroitin sulfate on discharge as not available inpatient
   -ibuprofen prn for pain
   9. Abdominal discomfort: Consistent with constipation per pt. Had BM
   yesterday but still quiet bowel sounds
   -colace, senna and bisacodyl prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-06-18 11:09:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 83 yo m with GBM on steroid taper at home admitted w/ fever, b/l
   pulm infiltrates, progressive hypoxemic resp failure and sepsis in
   setting of PCP [**Name Initial (PRE) **].
   24 Hour Events:
   DFA PCP pos on BAL
   stress dose steroids started for low random cortisol
   History obtained from Family / [**Hospital 380**] Medical records, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2153-6-16**] 05:48 AM
   Azithromycin - [**2153-6-17**] 02:03 AM
   Vancomycin - [**2153-6-17**] 08:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-6-18**] 05:56 AM
   Bactrim (SMX/TMP) - [**2153-6-18**] 10:00 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2153-6-17**] 09:46 PM
   Midazolam (Versed) - [**2153-6-17**] 09:46 PM
   Heparin Sodium (Prophylaxis) - [**2153-6-18**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-18**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 106 (100 - 124) bpm
   BP: 97/52(67) {90/52(67) - 121/66(86)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  3,133 mL
                                                                  2,589 mL
   PO:
             TF:
   IVF:
                                                                  3,043 mL
                                                                  2,589 mL
   Blood products:
   Total out:
                                                                  4,020 mL
                                                                  1,043 mL
   Urine:
                                                                  2,705 mL
                                                                    943 mL
   NG:
                                                                  1,315 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -887 mL
                                                                  1,546 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   SpO2: 85%
   ABG: 7.40/31/120/17/-3
   Ve: 10.2 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Overweight / Obese, anasarca
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   125 K/uL
   178 mg/dL
   0.9 mg/dL
   17 mEq/L
   3.9 mEq/L
   15 mg/dL
   103 mEq/L
   130 mEq/L
   25.6 %
   10.6 K/uL
        [image002.jpg]
                             [**2153-6-16**]  03:40 AM
                             [**2153-6-16**]  09:33 AM
                             [**2153-6-16**]  02:37 PM
                             [**2153-6-16**]  09:00 PM
                             [**2153-6-17**]  05:25 AM
                             [**2153-6-17**]  05:39 AM
                             [**2153-6-17**]  06:20 PM
                             [**2153-6-17**]  11:45 PM
                             [**2153-6-18**]  04:13 AM
                             [**2153-6-18**]  04:57 AM
   WBC
   7.9
   9.3
   9.0
   10.6
   Hct
   24.3
   25.2
   25.5
   25.6
   Plt
   119
   111
   118
   125
   Cr
   0.9
   1.0
   0.9
   0.9
   TCO2
   20
   22
   20
   20
   20
   Glucose
   [**Telephone/Fax (3) 5907**]78
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, Alk Phos / T Bili:/0.2, Lactic Acid:3.0 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:1.7
   mg/dL
   Imaging: r picc ok, et low (pull back 1 cm)
   lung fields  unchanged--b/l interstitial pattern
   Microbiology: mini BAL--DFA + PCP
   [**Name Initial (PRE) **]- + CMV
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), BRAIN
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   83 yo m with GBM on steroid taper at home admitted w/ fever, b/l pulm
   infiltrates, progressive hypoxemic resp failure, sepsis, and adrenal
   insuf in setting of PCP [**Name Initial (PRE) **].
    # Acute respiratory Failure
   ARDS
   PCP [**Name Initial (PRE) 5925**]
   +/- CHF (10 L positive for LOS)
   --continue ards net vent support
lungs seem to be slightly more
   compliant though remains very peep dependent with positional
   decompensation
   --continue current peep at 8, decrease FIO2 to 40% following abg
   --continue bactrim-400mg IV q 8 hours/steroids
   --consider chest ct if stabilized for road trip to better assess lung
   parenchyma
   # Shock
 septic shock with hypotension further exacerbated by sedation
   and positive pressure ventilation and adrenal insufficiency
   --continue supportive care/antibx
can d/c zosyn given neg bal for gnr
   and neg blood cx X 48 hrs
   - continue stress dose steroids
   --wean pressors for MAP > 60
   # hyponatremia
   Multiple rfs for SIADH given CNS process (GBM), lung process, adrenal
   insuff
   Bactrim affects  may also contribute
   --check serum/urine lytes and osms
   --follow [**Hospital1 **] na
   -- limit free H20 (change bactrim from D5 to NS)
   # Low urine output
NS fluid bolus, maintain CVPs > 10
   Remainder as per housestaff PN.
   ICU Care
   Nutrition:
   Comments: holding TFs for high residuals, continue reglan
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, critically ill
   Total time spent: 50 minutes

2153-06-19 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-18**]
   - stopped zosyn given negative cx
   - levophed off at 4am
   - per OT: has hx b/l subloxed 3rd digit PIPs, will need splints once
   edema resolves
   - PM Na improving
   - vent switched to volume control and fiO2 increased to 50
   [**6-19**]
   - increased Pulm edema on CXR
   - as per pharm, [**Month/Year (2) **] must be in D5W
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-17**] 02:03 AM
   Vancomycin - [**2153-6-17**] 08:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-6-18**] 05:56 AM
   [**Year (4 digits) 5901**] (SMX/TMP) - [**2153-6-19**] 01:44 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-19**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-19**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 88 (72 - 106) bpm
   BP: 102/45(60) {97/44(60) - 127/62(82)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,585 mL
                                                                    735 mL
   PO:
             TF:
   IVF:
                                                                  4,585 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                  2,233 mL
                                                                    680 mL
   Urine:
                                                                  2,133 mL
                                                                    680 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,352 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: 7.47/27/102/19/-1
   Ve: 11.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Gen: elderly gentleman, intubated, sedated, not arousable to voice
   HEENT: MMM, +thrush
   CV: heart sounds quiet but regular with nl S1, S2. +2/6 systolic
   ejection murmur.
   LUNGS: clear to auscultation in anterior fields
   ABD: soft, hypoactive bowel sounds
   EXT: symmetric 2+ edema to mid legs; feet cold bilaterally with some
   resolving petechiae around ankles
   Labs / Radiology
   111 K/uL
   7.6 g/dL
   85 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   16 mg/dL
   107 mEq/L
   134 mEq/L
   21.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2153-6-17**]  05:39 AM
                             [**2153-6-17**]  06:20 PM
                             [**2153-6-17**]  11:45 PM
                             [**2153-6-18**]  04:13 AM
                             [**2153-6-18**]  04:57 AM
                             [**2153-6-18**]  12:44 PM
                             [**2153-6-18**]  10:53 PM
                             [**2153-6-19**]  12:44 AM
                             [**2153-6-19**]  04:12 AM
                             [**2153-6-19**]  05:33 AM
   WBC
   10.6
   6.8
   Hct
   25.6
   21.6
   Plt
   125
   111
   Cr
   0.9
   0.8
   0.8
   0.7
   TCO2
   22
   20
   20
   20
   21
   20
   Glucose
   178
   171
   87
   85
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, Alk Phos / T Bili:/0.2, Lactic Acid:3.0 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.0
   mg/dL
   Microbiology: [**6-16**] BCX pending
   [**6-18**] UCX pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
    ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), BRAIN
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   83 yo man with gliobastoma multiforme developed PCP pneumonia in the
   setting of steroid taper ultimately requiring intubation on [**6-16**] for
   progressive hypoxemia. On stress dose steroids for adrenal
   insufficiency and now off pressors.
   #. Respiratory failure/PCP [**Name Initial (PRE) 1644**]: Resp failure ; likely secondary to PCP
   pneumonia with pulmonary edema possibly contributing s/p aggressive
   fluid resuscitation. Nml ventricular function on [**Name Initial (PRE) **]. Switched from
   pressure control to volume control, pulling in large tidal volumes and
   now alkalotic.
    -F/u final BAL, CMV pending.
   - Continue ventilation, adjust minute V for alkalosis
   - continue Narrow coverage for PCP: [**Name Initial (NameIs) **] 400 tid;   off
   vanco,zosyn,azithro
   - continue stress dose steroids; need to determine GBM dose
   - Consider CT chest if continuing to worsen; daily CXR
   - gentele diuresis as significantly fluid overloaded but hjust taken
   off pressors
   #. Hypotension/ shock:
   Likely septic given evidence of infection with contribution from
   sedation and positive pressure ventilation. Initially may have had
   component of hypovolemia but now fluid overloaded. Adrenally
   insufficient
 stess dose steroids. Cardiogenic etiology less likely
   given relatively normal [**Name (NI) **].
   -[**Name (NI) 5901**] for PCP as above
   [**Name9 (PRE) 4837**] stress dose steroids as above with wean to PCP dose
   [**Name9 (PRE) 4837**] to hold outpatient atenolol and quinapril
   - off pressors
   .
   # Anemia: no obvious source, perhaps dilutional as given additional
   volume yesterday with NS
   - Monitor Hct [**Hospital1 **]
   -transfuse 1pRBC with lasix
   .
   # Low urine output/ hyponatremia: Improved when [**Hospital1 **] given in NS,
   but unable to continue this. U studies equivocal in terms of dignosing
   SIADH.
   - Monitor with [**Hospital1 **] Na
   - minimize free water
   .
   #. GBM
   Previously on prolonged dexamethasone taper [**3-12**] radiation with
   resultant edema in brainstem.
   -now on stress dose steroids, need to determine GBM dose
   -continue PPI given steroids, intracranial lesion
   #Thrush
   -Likely [**3-12**] immunosuppression from steroids
   -continue Nystatin
   # CAD: holding BP meds but continuing statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-06-19 12:40:00 Physician Attending Progress Note
Chief Complaint: resp failure, pcp pna
   [**Name Initial (PRE) **] saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   83 yo m with GBM on steroid taper at home admitted w/ fever, b/l pulm
   infiltrates, progressive hypoxemic resp failure, sepsis, and adrenal
   insuf in setting of PCP [**Name Initial (PRE) **].
   24 Hour Events:
   zosyn d/c'd
   off pressors
   hyponatremia improving
   changed to ACV from PC
   History obtained from Family / Friend
   Allergies:
   [**Name2 (NI) 83**] Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2153-6-17**] 02:03 AM
   Vancomycin - [**2153-6-17**] 08:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-6-18**] 05:56 AM
   Bactrim (SMX/TMP) - [**2153-6-19**] 01:44 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-19**] 08:00 AM
   Lansoprazole (Prevacid) - [**2153-6-19**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-19**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 85 (72 - 91) bpm
   BP: 106/46(64) {98/43(58) - 122/56(75)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,585 mL
                                                                    944 mL
   PO:
             TF:
   IVF:
                                                                  4,585 mL
                                                                    884 mL
   Blood products:
   Total out:
                                                                  2,233 mL
                                                                    905 mL
   Urine:
                                                                  2,133 mL
                                                                    905 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,352 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PC : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   SpO2: 90%
   ABG: 7.47/27/102/19/-1
   Ve: 11.3 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Well nourished, No(t) Overweight / Obese, depend
   edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : ), distant BS
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Cool--distal ext
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   111 K/uL
   85 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   16 mg/dL
   107 mEq/L
   134 mEq/L
   21.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2153-6-17**]  05:39 AM
                             [**2153-6-17**]  06:20 PM
                             [**2153-6-17**]  11:45 PM
                             [**2153-6-18**]  04:13 AM
                             [**2153-6-18**]  04:57 AM
                             [**2153-6-18**]  12:44 PM
                             [**2153-6-18**]  10:53 PM
                             [**2153-6-19**]  12:44 AM
                             [**2153-6-19**]  04:12 AM
                             [**2153-6-19**]  05:33 AM
   WBC
   10.6
   6.8
   Hct
   25.6
   21.6
   Plt
   125
   111
   Cr
   0.9
   0.8
   0.8
   0.7
   TCO2
   22
   20
   20
   20
   21
   20
   Glucose
   178
   171
   87
   85
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, Alk Phos / T Bili:/0.2, Lactic Acid:3.0 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.0
   mg/dL
   Imaging: CXR--worsening pulm edema/ effusions, underlying retic pattern
   Microbiology: bl urine pending, ngtd
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), BRAIN
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   83 yo m with GBM on steroid taper at home admitted w/ fever, b/l pulm
   infiltrates, progressive hypoxemic resp failure, sepsis, and adrenal
   insuf in setting of PCP [**Name Initial (PRE) **].
   # Acute respiratory Failure
   ARDS
   PCP pneumonia
   component of pulm edema/CHF
   --continue vent support
now on PRVC, adjust MV to improve alkalosis,
   ards net volumes though pt takes large TV despite lower set volumes and
   may need to increase sedation to limit volume and risk of volutrauma,
   follow abg
   --continue bactrim-400mg IV q 8 hours/steroids
   --would initiate gentle diuresis as BPs stabilize
   # Shock
 septic shock with hypotension further exacerbated by sedation
   and positive pressure ventilation and adrenal insufficiency
   --now off pressors
   --continue supportive care/antibx
   - continue stress dose steroids taper to PCP dose and then to dose for
   GBM
   # hyponatremia
   labs less c/w siadh, likely related to fluids/bactrim
   -- follow [**Hospital1 **] na
   -- limit additional free H20
   #anemia--no obvious bleeding source
   ? dilutional drop in hct
   t and cross
   transfuse prbc, follow h/h serially
   heme check stool
   Remainder as per housestaff PN.
   ICU Care
   Nutrition:
   Comments: resume TFs
   Glycemic Control:  Regular insulin sliding scale, Comments: standing
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-06-20 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-19**]
   - as per notes GBM taper was down to dexamethasone 2mg tid prior to
   current admission and should have tapered off to 1mg QD on [**6-18**]
   - Still with large tidal volumes and high o2 requirements spontaneously
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2153-6-17**] 08:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-6-18**] 05:56 AM
   [**Year (4 digits) 5901**] (SMX/TMP) - [**2153-6-20**] 06:25 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2153-6-19**] 08:00 AM
   Furosemide (Lasix) - [**2153-6-19**] 03:04 PM
   Heparin Sodium (Prophylaxis) - [**2153-6-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-20**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 90 (84 - 94) bpm
   BP: 124/58(78) {98/43(58) - 130/63(83)} mmHg
   RR: 14 (8 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,962 mL
                                                                  1,083 mL
   PO:
             TF:
                                                                    220 mL
                                                                    297 mL
   IVF:
                                                                  2,404 mL
                                                                    786 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  2,040 mL
                                                                    340 mL
   Urine:
                                                                  2,040 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    922 mL
                                                                    743 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 822 (780 - 1,026) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 8
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.48/29/66/21/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 132
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   107 K/uL
   9.8 g/dL
   128 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.3 mEq/L
   23 mg/dL
   104 mEq/L
   133 mEq/L
   27.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2153-6-18**]  10:53 PM
                             [**2153-6-19**]  12:44 AM
                             [**2153-6-19**]  04:12 AM
                             [**2153-6-19**]  05:33 AM
                             [**2153-6-19**]  02:33 PM
                             [**2153-6-19**]  02:52 PM
                             [**2153-6-19**]  07:24 PM
                             [**2153-6-19**]  07:38 PM
                             [**2153-6-20**]  04:09 AM
                             [**2153-6-20**]  04:42 AM
   WBC
   6.8
   7.4
   Hct
   21.6
   27.6
   25
   27.9
   Plt
   111
   107
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   21
   20
   22
   22
   22
   Glucose
   87
   85
   153
   128
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, Alk Phos / T Bili:/0.2, Lactic Acid:1.6 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Imaging: CXR :poor study, LIKELY UNCHANGED
   Microbiology: [**6-16**] Bcx ngtd
   [**6-16**] Ucx negative
   CMV BAL pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), BRAIN
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   83 yo m with GBM on steroid taper at home admitted w/ fever, b/l pulm
   infiltrates, progressive hypoxemic resp failure, sepsis, and adrenal
   insuf in setting of PCP [**Name Initial (PRE) **].
   # Acute respiratory Failure
   ARDS
   PCP pneumonia
   component of pulm edema/CHF
   --continue vent support
now on PRVC, adjust MV to improve alkalosis,
   ards net volumes though pt takes large TV despite lower set volumes and
   may need to increase sedation to limit volume and risk of volutrauma,
   follow abg
   --continue [**Name Initial (PRE) **]-400mg IV q 8 hours/steroids
   --would initiate gentle diuresis as BPs stabilize
   # Shock
 septic shock with hypotension further exacerbated by sedation
   and positive pressure ventilation and adrenal insufficiency
   --now off pressors
   --continue supportive care/antibx
   - continue stress dose steroids taper to PCP dose and then to dose for
   GBM
   # hyponatremia
   labs less c/w siadh, likely related to fluids/[**Name Initial (PRE) **]
   -- follow [**Hospital1 **] na
   -- limit additional free H20
   #anemia--no obvious bleeding source
   ? dilutional drop in hct
   t and cross
   transfuse prbc, follow h/h serially
   heme check stool
   83 yo man with gliobastoma multiforme developed PCP pneumonia in the
   setting of steroid taper ultimately requiring intubation on [**6-16**] for
   progressive hypoxemia. On stress dose steroids for adrenal
   insufficiency and now off pressors.
   #. Respiratory failure/PCP [**Name Initial (PRE) 1644**]: Resp failure ; likely secondary to PCP
   pneumonia with pulmonary edema possibly contributing s/p aggressive
   fluid resuscitation. Nml ventricular function on [**Name Initial (PRE) **]. Switched from
   pressure control to volume control, pulling in large tidal volumes and
   now alkalotic.
    -F/u final BAL, CMV pending.
   - Continue ventilation, adjust minute V for alkalosis
   - continue Narrow coverage for PCP: [**Name Initial (NameIs) **] 400 tid;   off
   vanco,zosyn,azithro
   - continue stress dose steroids; need to determine GBM dose
   - Consider CT chest if continuing to worsen; daily CXR
   - gentele diuresis as significantly fluid overloaded but hjust taken
   off pressors
   #. Hypotension/ shock:
   Likely septic given evidence of infection with contribution from
   sedation and positive pressure ventilation. Initially may have had
   component of hypovolemia but now fluid overloaded. Adrenally
   insufficient
 stess dose steroids. Cardiogenic etiology less likely
   given relatively normal [**Name (NI) **].
   -[**Name (NI) 5901**] for PCP as above
   [**Name9 (PRE) 4837**] stress dose steroids as above with wean to PCP dose
   [**Name9 (PRE) 4837**] to hold outpatient atenolol and quinapril
   - off pressors
   .
   # Anemia: no obvious source, perhaps dilutional as given additional
   volume yesterday with NS
   - Monitor Hct [**Hospital1 **]
   -transfuse 1pRBC with lasix
   .
   # Low urine output/ hyponatremia: Improved when [**Hospital1 **] given in NS,
   but unable to continue this. U studies equivocal in terms of dignosing
   SIADH.
   - Monitor with [**Hospital1 **] Na
   - minimize free water
   .
   #. GBM
   Previously on prolonged dexamethasone taper [**3-12**] radiation with
   resultant edema in brainstem.
   -now on stress dose steroids, need to determine GBM dose
   -continue PPI given steroids, intracranial lesion
   #Thrush
   -Likely [**3-12**] immunosuppression from steroids
   -continue Nystatin
   # CAD: holding BP meds but continuing statin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-6-20**] 04:50 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-06-20 09:44:00 Physician Attending Progress Note
Chief Complaint: pcp [**Name Initial (PRE) **]/resp failure/adrenal insuf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received 1 unit prbc and lasix X 1 with good u/o
   This am desat to mid-high 80% range with fio2 increased to 60% from 50%
   Tachycardic on rounds to 130
                                                      History obtained from ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2153-6-18**] 05:56 AM
   Bactrim (SMX/TMP) - [**2153-6-20**] 06:25 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2153-6-19**] 03:04 PM
   Heparin Sodium (Prophylaxis) - [**2153-6-20**] 08:40 AM
   Other medications:
   reviewed [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-20**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 91 (85 - 94) bpm
   BP: 135/61(85) {98/44(61) - 135/63(85)} mmHg
   RR: 17 (8 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,962 mL
                                                                  1,205 mL
   PO:
             TF:
                                                                    220 mL
                                                                    375 mL
   IVF:
                                                                  2,404 mL
                                                                    829 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  2,040 mL
                                                                    380 mL
   Urine:
                                                                  2,040 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    922 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 935 (780 - 1,026) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 11
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.48/29/66/21/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   107 K/uL
   128 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.3 mEq/L
   23 mg/dL
   104 mEq/L
   133 mEq/L
   27.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2153-6-18**]  10:53 PM
                             [**2153-6-19**]  12:44 AM
                             [**2153-6-19**]  04:12 AM
                             [**2153-6-19**]  05:33 AM
                             [**2153-6-19**]  02:33 PM
                             [**2153-6-19**]  02:52 PM
                             [**2153-6-19**]  07:24 PM
                             [**2153-6-19**]  07:38 PM
                             [**2153-6-20**]  04:09 AM
                             [**2153-6-20**]  04:42 AM
   WBC
   6.8
   7.4
   Hct
   21.6
   27.6
   25
   27.9
   Plt
   111
   107
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   21
   20
   22
   22
   22
   Glucose
   87
   85
   153
   128
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, Alk Phos / T Bili:/0.2, Lactic Acid:1.6 mmol/L,
   Albumin:1.8 g/dL, LDH:388 IU/L, Ca++:7.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Imaging: cxr--picc ok, et ok, no sig change in b/l asd/pulm edema,
   underpen
   Microbiology: bl ngtd
   no new data
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), BRAIN
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   83 yo m with GBM on steroid taper at home admitted w/ fever, b/l pulm
   infiltrates, progressive hypoxemic resp failure, sepsis, and adrenal
   insuf in setting of PCP [**Name Initial (PRE) **].
   Primary issues include:
          Acute respiratory failure
          ARDS
          PCP pneumonia
          Pulm edema
          Tachycardia
          Hyponatremia
          CNS malignancy--GBM
          [**Name (NI) 5952**]
   Pt has shown a gradual worsening in resp status/oxygenation with acute
   decline this am.  Hemodynamics notable for new tachycardia with stable
   BP.  He has continued to pull large TVs regardless of increased
   sedation or change in vent mode to PS making it difficult to maintain
   lung/ards protective low TVs.  As there have been no new fevers or
   secretions new resp infection seems unlikely and we are more concerned
   for acute insults such as PE or pnx.
   Agree with plan to repeat urgent cxr.  Would then pursue evaluation for
   PE with cta.  Consider empiric heparin but first need to clarify with
   neuron-onc regarding risks of anticoagulate given GBM. Overall pt is
   declining and family was updated to change in status.  Pt is now DNR .
   We will continue to address goals of care pending further change in
   status as family may be moving toward transition to comfort.
   We continue treatment for PCP. [**Name10 (NameIs) **] readdress with ID service
   indication to treat CMV infection in setting of PCP. [**Name10 (NameIs) **] continue vent
   support with AC mode increasing fio2 to maintain sats and following
   abg.  Component of cardiogenic or noncardiogenic pulm edema also factor
would hold on more aggressive diuresis pending PE eval as he may be
   pre-load dependent . Continue to monitor hyponatremia and limit free
   water.
   Remainder as per housestaff note
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2153-6-20**] 04:50 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 7 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU staff addendum
   Spoke with family regarding pt
s condition. Although hemodynamically
   improved from shock/sepsis standpoint he remains critically ill in
   respiratory failure on significant ventilatory support with high PEEP
   and FIO2 requirements.  Updated family to CTA/head CT findings.  FIo2
   now at 75% (significantly higher than previously).HR has improved to
   110
s with increased sedation..  Family feels that pt would not want
   continued aggressive ICU course with prolonged MV.  Decision was made
   to change to DNR code status and transition to CMO on Thursday after
   additional family members arrive.
   Additional time spent in review/family discussion: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2153-6-21**] 08:04 AM ------

2153-06-21 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt switched to DNR
   - family wishes to extubate and make CMO tomorrow, oncologist and PCP
   emailed
   [**Name Initial (PRE) **] per ID, cont methylpred 30 [**Hospital1 **] and [**Hospital1 **], they don't consider HSV
   and CMV need to be addressed
   - nchct: no bleed, CTA: no pe
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   [**Hospital1 5901**] (SMX/TMP) - [**2153-6-21**] 05:01 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-6-20**] 08:40 AM
   Midazolam (Versed) - [**2153-6-21**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-6-21**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 134 (85 - 139) bpm
   BP: 124/65(84) {109/56(73) - 145/72(94)} mmHg
   RR: 13 (8 - 21) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 63 Inch
             Total In:
                                                                  1,778 mL
                                                                    708 mL
   PO:
             TF:
                                                                    506 mL
   IVF:
                                                                  1,273 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                  1,220 mL
                                                                    900 mL
   Urine:
                                                                  1,220 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    558 mL
                                                                   -192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 730 (624 - 953) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 12 cmH2O
   FiO2: 75%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 93%
   ABG: 7.44/33/71/20/0
   Ve: 11 L/min
   PaO2 / FiO2: 95
   Physical Examination
   Gen: elderly gentleman, intubated, sedated, not arousable to voice
   HEENT: MMM, +thrush
   CV: heart sounds quiet but regular with nl S1, S2. +2/6 systolic
   ejection murmur.
   LUNGS: clear to auscultation in anterior fields
   ABD: soft, hypoactive bowel sounds
   EXT: symmetric 2+ edema to mid legs; feet cold bilaterally with some
   resolving petechiae around ankles
   Labs / Radiology
   109 K/uL
   9.8 g/dL
   160 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.8 mEq/L
   24 mg/dL
   102 mEq/L
   132 mEq/L
   28.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2153-6-19**]  07:24 PM
                             [**2153-6-19**]  07:38 PM
                             [**2153-6-20**]  04:09 AM
                             [**2153-6-20**]  04:42 AM
                             [**2153-6-20**]  10:35 AM
                             [**2153-6-20**]  01:29 PM
                             [**2153-6-20**]  04:53 PM
                             [**2153-6-20**]  08:24 PM
                             [**2153-6-21**]  04:45 AM
                             [**2153-6-21**]  05:01 AM
   WBC
   7.4
   7.8
   Hct
   27.6
   25
   27.9
   28.4
   28.6
   Plt
   107
   109
   Cr
   0.8
   0.8
   0.7
   TCO2
   22
   22
   21
   23
   23
   Glucose
   128
   163
   160
   Other labs: PT / PTT / INR:14.1/31.2/1.2, CK / CKMB /
   Troponin-T:55/6/0.04, ALT / AST:21/40, Alk Phos / T Bili:76/0.2, Lactic
   Acid:1.6 mmol/L, Albumin:1.8 g/dL, LDH:566 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging:
   CTA chest [**6-20**]:
   IMPRESSION:
   1. Negative examination for pulmonary embolism.
   2. Small bilateral pleural effusion.
   3. Small pericardial effusion.
   4. Consolidation in dependent lungs, more predominantly in the lower
   lobes
   could be related to infectious process or pneumonia.
   5. Small airways disease.
   6. Liver and renal cysts.
   CT head noncontrast:
   No intracranial hemorrhage demonstrated.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERATION IN NUTRITION
 .H/O CANCER (MALIGNANT NEOPLASM), BRAIN
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   83 yo man with gliobastoma multiforme developed PCP pneumonia in the
   setting of steroid taper ultimately requiring intubation on [**6-16**] for
   progressive hypoxemia. On stress dose steroids for adrenal
   insufficiency and now off pressors. As of [**6-20**] with worsening resp
   status and oxygenation.
   #. Worsening Respiratory failure/PCP [**Name Initial (PRE) 1644**]: Resp failure ; likely
   secondary to PCP pneumonia with pulmonary edema possibly contributing
   s/p aggressive fluid resuscitation. Nml ventricular function on recent
   [**Name Initial (PRE) **]. Has been pulling in large tidal volumes which may also be
   contributing to lung injury.  Deoxygenation this AM associateed with
   tachycardia and thus also concerning for PE
    -F/u final BAL, CMV from pending.; serum CMV vrial load =1500; ID
   initially said that this was insignificant in him, but will discuss
   further w/ them
   - Continue PSV as dysynchronus with ACV; we have held off on sedation
   as he is on steroids, but may need it to control lung volumes
   - continue Narrow coverage for PCP: [**Name Initial (NameIs) **] 400 tid 21 day course (d1=
   [**6-14**]);   off vanco,zosyn,azithro
   - continue steroids at PCP [**Name Initial (PRE) 5959**]: 15 methyl prednisolone [**Hospital1 **] x5 days
   (starting [**6-20**]), followed by 11 days of 20 prednisone DAILY
   - CTA to eval for PE + CT head (neuro onc comfortable with anicoag
   PTT=60-90 W/O bolus
   - diuresis on hold [**3-12**] tachycardia, although fluid overloaded on exam
   #. Hypotension/ shock:
   Likely septic given evidence of infection with contribution from
   sedation and positive pressure ventilation. Initially may have had
   component of hypovolemia but now fluid overloaded. Adrenally
   insufficient
 stess dose steroids x5 days, now off. Cardiogenic
   etiology less likely given relatively normal [**Name (NI) **].
   -[**Name (NI) 5901**] for PCP as above
   - s/p 5 days of stress dose steroids, switching to PCP tx doses
   [**Name9 (PRE) 4837**] to hold outpatient atenolol and quinapril
   - off pressors over 48 hours
   - tachycardic to 120s but not hypotensive, CTA as above.
   .
   # Anemia: no obvious source, perhaps dilutional as given additional
   volume yesterday with NS
   - Monitor Hct [**Hospital1 **]
   - stable today
   .
   # Low urine output/ hyponatremia: Improved when [**Hospital1 **] given in NS,
   but unable to continue this. U studies equivocal in terms of dignosing
   SIADH.
   - Monitor with [**Hospital1 **] Na
   - minimize free water
   .
   #. GBM
   Previously on prolonged dexamethasone taper [**3-12**] radiation with
   resultant edema in brainstem.
   - as per outpt notes dexamethasone taper would have ended on [**6-18**]
   -continue PPI given steroids, intracranial lesion
   - Head CT as may be initiating heaprin drip
   #Thrush
   -Likely [**3-12**] immunosuppression from steroids
   -continue Nystatin
   # CAD: holding BP meds but continuing statin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2153-6-14**] 12:28 PM
   Arterial Line - [**2153-6-15**] 08:17 PM
   20 Gauge - [**2153-6-15**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: